US06987116B2
A mixture of 2,4-dichloro-5-methoxyaniline (336 mg, 1.75 mmol) and 60% sodium hydride (69 mg, 1.73 mmol) in 10 mL of tetrahydrofuran is heated at reflux for 40 minutes. The solution is cooled and 7-chloro-2-phenylthieno[3,2-b]pyridine-6-carbonitrile (270 mg, 1.0 mmol) is added. The reaction mixture is heated at reflux for 5.5 hours then allowed to stir at room temperature overnight. The resultant black solution is partitioned between ethyl acetate and water. The aqueous layer is acidified with 1 N hydrochloric acid and extracted with ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is treated with ethyl acetate and hexane and the insoluble material is collected by filtration. The solid is suspended in hot methanol and ethyl acetate and the mixture is filtered while warm to provide 50 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-phenylthieno[3,2-b]pyridine-6-carbonitrile as a light brown solid, mp 274-276° C.; 1H NMR (DMSO-d6) δ 3.86 (s, 3H), 7.40 (s, 1H), 7.44-7.53 (m, 3H), 7.73 (d, J=7 Hz, 2H), 7.78 (s, 1H), 7.94 (s, 1H), 8.63 (s, 1H), 9.78 (s, 1H); MS 426.1 (M+H)+.

reactant | 2,4-dichloro-5-methoxyaniline | 1.75 mmol, 336 mg | ClC1=C(N)C=C(C(=C1)Cl)OC | C7H7Cl2NO
reactant | sodium hydride | 1.73 mmol, 69 mg | [H-].[Na+]
reactant | 7-chloro-2-phenylthieno[3,2-b]pyridine-6-carbonitrile | 1.0 mmol, 270 mg | ClC1=C2C(=NC=C1C#N)C=C(S2)C2=CC=CC=C2 | C14H7ClN2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-phenylthieno[3,2-b]pyridine-6-carbonitrile | 50 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C2=CC=CC=C2 | C21H13Cl2N3OS
